US06187774B1
By the same reaction and treatment as in Example 91 using 6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine, 2,2-dimethyl-1,3-dioxane-4,6-dione and 4-(4chlorophenyl)-1,2,3,6-tetrahydropyridine, 3-(3-(4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridin-1-yl)propyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine is obtained.

reactant | 6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine | N=1C=CN2C1CCCCC2 | C8H12N2
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 4-(4chlorophenyl)-1,2,3,6-tetrahydropyridine | ClC1=CC=C(C=C1)C=1CCNCC1 | C11H12ClN
product | 3-(3-(4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridin-1-yl)propyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine | ClC1=CC=C(C=C1)C=1CCN(CC1)CCCC1=CN=C2N1CCCCC2 | C22H28ClN3
